US04421693
Preparation of Bis(isopropoxycarbonylmethyl)aminosulfenyl Chloride
2.1 g (0.02 mole) of sulfur dichloride was dissolved in 35 ml of carbon tetrachloride, and 1.6 g (0.02 mole) of pyridine was dropwise added to the resulting solution at 0° to 5° C. After completion of the dropwise addition, 4.3 g (0.02 mole) of isopropyl iminodiacetate was further dropwise added thereto at 10° to 20° C., and the resulting mixture was stirred for one hour at the same temperature. After completion of the reaction, crystals were filtered off, and the mother liquor was concentrated under reduced pressure to obtain an oily product. Yield: 5.5 g (97%).

reactant | sulfur dichloride | 0.02 mole, 2.1 g | S(Cl)Cl | Cl2S
reactant | pyridine | 0.02 mole, 1.6 g | N1=CC=CC=C1 | C5H5N
reactant | isopropyl iminodiacetate | 0.02 mole, 4.3 g | N(CC(=O)[O-])CC(=O)OC(C)C
solvent | carbon tetrachloride | 35 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Bis(isopropoxycarbonylmethyl)aminosulfenyl Chloride | C(C)(C)OC(=O)CN(SCl)CC(=O)OC(C)C | C10H18ClNO4S
